US04320127
Preparation of 3-hexyl-1-benzoyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride
3 g (0.01 mole) of 3-hexyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride are reacted with 2 g (0.02 mole) of triethylamine in 60 ml of anhydrous acetonitrile under argon, thereafter 2.9 g (0.02 mole) of benzoylchloride are added to the reaction mixture which is boiled for an hour. Then the mixture is cooled, poured into water, neutralized and extracted with chloroform. The solvent is evaporated and the residue is reacted with anhydrous hydrochloric ethanol to form a salt.

reactant | 3-hexyl-1,2-dihydropyrido-[3,2-e]-as-triazine dihydrochloride | 0.01 mole, 3 g | Cl.Cl.C(CCCCC)C=1NNC2=C(N1)C=CC=N2
reactant | triethylamine | 0.02 mole, 2 g | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | 0.02 mole, 2.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 3-hexyl-1-benzoyl-1,2-dihydropyrido[3,2-e]-as-triazine hydrochloride | Cl.C(CCCCC)C=1NN(C2=C(N1)C=CC=N2)C(C2=CC=CC=C2)=O | InChI=1S/C19H22N4O.ClH/c1-2-3-4-8-13-17-21-16-12-9-14-20-18(16)23(22-17)19(24)15-10-6-5-7-11-15;/h5-7,9-12,14H,2-4,8,13H2,1H3,(H,21,22);1H
